US05359076
Into 30 ml of methanol were dissolved 2.17 g (13.2 mmol) of methyl-p-aminophenylacetate, and, under stirring and cooling with ice, a solution of 2.00 g (13.2 mmol) of methyl 3- trifluoromethylpropiolate in 10 ml of methanol was added dropwise. After 30 minutes, solvent was distilled off to obtain methyl 3-(4-methoxycarbonylmethylphenylamino)-3-trifluoromethylacrylate (4.17 g) as a yellow oily substance.

reactant | methyl-p-aminophenylacetate | 13.2 mmol, 2.17 g | COC(CC1=CC=C(C=C1)N)=O | C9H11NO2
reactant | methyl 3- trifluoromethylpropiolate | 13.2 mmol, 2.00 g | FC(C#CC(=O)OC)(F)F | C5H3F3O2
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | methyl 3-(4-methoxycarbonylmethylphenylamino)-3-trifluoromethylacrylate | 4.17 g | COC(=O)CC1=CC=C(C=C1)NC(=CC(=O)OC)C(F)(F)F | C14H14F3NO4
